US08802690B2
To a cooled solution of (2-aminophenyl)acetonitrile (13 g, 98 mmol) in dimethylformamide (150 mL) at 0° C., was added N-bromosuccinimide (19.3 g, 108 mmol) in portions for 30 minutes and maintained at 0° C. for 1 hour. The mixture was diluted with ethyl acetate (300 mL) and washed with water (3×100 mL) and saturated sodium chloride (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained crude product was purified by column chromatography (100-200 mesh silica gel) using 10% ethyl acetate in petroleum ether as eluent to afford (2-amino-5-bromophenyl)acetonitrile (11 g, 53%) as solid. 1HNMR (CDCl3) δ 7.35 (s, 1H), 7.25 (d, 1H), 6.65 (d, 1H). 3.7 (br, 2H), 3.52 (s, 2H).

reactant | (2-aminophenyl)acetonitrile | 98 mmol, 13 g | NC1=C(C=CC=C1)CC#N | C8H8N2
reactant | N-bromosuccinimide | 108 mmol, 19.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (2-amino-5-bromophenyl)acetonitrile | 11 g, 53% | NC1=C(C=C(C=C1)Br)CC#N | C8H7BrN2
